US04327213
Z-α-methoxyimino-2-pyridineacetic acid methylester (5 g) and a solution of methylamine in water (15 ml, 30%) were stirred at a temperature of 60° C. until the starting compound was completely dissolved. Water was evaporated under reduced pressure and the residue was recrystallized from toluene, yielding N-methyl-α-methoxyimino-2-pyridineacetamide (3.0 g), Z-isomer, m.p. 132°-133° C. The E-isomer was obtained in the same way, but starting from the corresponding E-ester. M.p. of the E-isomer 91°-93° C.

reactant | Z-α-methoxyimino-2-pyridineacetic acid methylester | 5 g | COC(\C(\C1=NC=CC=C1)=N/OC)=O | C9H10N2O3
reactant | methylamine | CN | CH5N
solvent | water | 15 ml | O | H2O
product | N-methyl-α-methoxyimino-2-pyridineacetamide | 3.0 g | CNC(C(C1=NC=CC=C1)=NOC)=O | C9H11N3O2
